US05220051
116 g of N,N,N',N'-tetramethylethylenediamine (MW: 116, 1.0 mol) and 116 g of distilled water were mixed together in a 1-l four-necked flask fitted with a condenser, a thermometer, a mechanical stirrer and a dropping funnel, while keeping the flask in an ice bath. Thereafter, 208.6 g (2.0 mol) of a 35% aqueous solution of HCl was dropped into the flask through the dropping funnel over a period of about one hour. The reaction mixture was aged for 30 minutes and freed from the water by vacuum distillation with an evaporator to give 185 g of N,N,N',N'-tetramethylethylenediamine hydrochloride. 150 g of this hydrochloride (MW: 189, 0.79 mol), 150 g of dioxane and 73.0 g of ethylene oxide (MW: 44, 1.66 mol) were fed into a 1-l autoclave, which was purged with nitrogen several times. The reaction mixture was heated to 150° C. and aged for 4 hours. After the completion of the reaction, the dioxane was distilled off and the obtained residue was recrystallized from acetone to give 203.2 g of the compound (6) (MW: 277, 0.72 mol).

reactant | N,N,N',N'-tetramethylethylenediamine | 1.0 mol, 116 g | CN(CCN(C)C)C | C6H16N2
reactant | HCl | Cl | ClH
solvent | water | 116 g | O | H2O
product | N,N,N',N'-tetramethylethylenediamine hydrochloride | 185 g | Cl.CN(CCN(C)C)C | InChI=1S/C6H16N2.ClH/c1-7(2)5-6-8(3)4;/h5-6H2,1-4H3;1H
